US05411979
To a mixture of 5.00 g (0.021 mol.) of 2-[4-(1,1-dimethylethyl)phenoxy]-1,1-dimethoxyethane and 60 ml of acetic acid, there was added 6 ml of hydrochloric acid (36N) and the reaction mixture was stirred at room temperature for one hour. Then the reaction mixture was poured into 300 ml of cold water and filtrated quickly to recover a resultant white precipitate. The precipitate was obtained as a wet cake of 2-[4-(1,1-dimethylethyl) phenoxy]acetoaldehyde without being dried too much and was quickly used in the next step of the production procedure.

reactant | 2-[4-(1,1-dimethylethyl)phenoxy]-1,1-dimethoxyethane | 0.021 mol, 5.00 g | CC(C)(C)C1=CC=C(OCC(OC)OC)C=C1 | C14H22O3
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 36N, 6 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 2-[4-(1,1-dimethylethyl) phenoxy]acetoaldehyde | CC(C)(C)C1=CC=C(OCC=O)C=C1 | C12H16O2
